US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(pyrimidin-2-yl)benzamido)-4-phenylbenzoate (0.072 g) in ethyl acetate (4 mL) and methanol (4 mL), 10% palladium-carbon (36 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 45 minutes. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 75-60% hexane/ethyl acetate] to obtain 5 mg of tert-butyl 2-(2-hydroxy-5-(pyrimidin-2-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(pyrimidin-2-yl)benzamido)-4-phenylbenzoate | 0.072 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=NC=CC=N1 | C35H31N3O4
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium-carbon | 36 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(pyrimidin-2-yl)benzamido)-4-phenylbenzoate | 5 mg | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=NC=CC=N1 | C28H25N3O4
